US04517187
To a stirred solution of 1.0 M borane in tetrahydrofuran (70 ml) maintained under nitrogen at 0° was added cis-1,3,4,6,7,11b-hexahydro-2-benzoyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline (6.8 g, 0.0184 m) and the mixture heated to reflux for 3 hours, then cooled in an ice bath and carefully treated with 10% HCl (50 ml). This mixture was heated to reflux for 1 hour, then cooled, and tetrahydrofuran removed on an aspirator. The residue was basified to pH 11 with 10% NaOH and extracted with chloroform (3×100 ml). The extracts were dried over MgSO4 and evaporated to a yellow oil, 7.8 g. This crude product was purified by chromatography on a Prep 500 HPLC on silica gel eluting with 1:1 ether:cyclohexane (1% diethylamine). The pure fractions were combined and evaporated to an oil which was dissolved in methanol (50 ml) and isopropanol (25 ml) and acidified with HCl gas. The white solid which crystallized was collected by filtration and vacuum dried at 80° for 24 hours to give 3.9 g of cis-1,3,4,6,7,11b-hexahydro-2-benzyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 203°-204°.

reactant | borane | 1.0 M | B | BH3
reactant | cis-1,3,4,6,7,11b-hexahydro-2-benzoyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline | 6.8 g | C(C1=CC=CC=C1)(=O)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | C25H24N2O
reactant | HCl | 50 ml | Cl | ClH
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | cis-1,3,4,6,7,11b-hexahydro-2-benzyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 3.9 g | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | InChI=1S/C25H26N2.2ClH/c1-3-9-20(10-4-1)17-26-15-16-27-18-24(21-11-5-2-6-12-21)22-13-7-8-14-23(22)25(27)19-26;;/h1-14,24-25H,15-19H2;2*1H/t24-,25-;;/m0../s1
